US06858613B2
To a solution of ethyl pyrazino[1,2-a]indole-3-carboxylate (0.49 g, 2.0 mmol) in EtOH (30 mL) is added crushed potassium hydroxide (1.1 g, 20.0 mmol) followed by water (30 mL). The resulting dark colored solution is stirred at rt for 40 min and then neutralized with conc. HCl to pH ˜2. The acidic mixture is concentrated to dryness to afford pyrazino[1,2-a]indole-3-carboxylic acid hydrochloride. HRMS (FAB) calcd for C12H8N2O2+H 213.0664, found 213.0658.

reactant | ethyl pyrazino[1,2-a]indole-3-carboxylate | 2.0 mmol, 0.49 g | C1=NC(=CN2C1=CC=1C=CC=CC21)C(=O)OCC | C14H12N2O2
reactant | potassium hydroxide | 20.0 mmol, 1.1 g | [OH-].[K+]
reactant | water | 30 mL | O | H2O
reactant | HCl | Cl | ClH
solvent | EtOH | 30 mL | CCO | C2H6O
product | pyrazino[1,2-a]indole-3-carboxylic acid hydrochloride | Yield 34% | Cl.C1=NC(=CN2C1=CC=1C=CC=CC21)C(=O)O | InChI=1S/C12H8N2O2.ClH/c15-12(16)10-7-14-9(6-13-10)5-8-3-1-2-4-11(8)14;/h1-7H,(H,15,16);1H
